US07838688B2
2) Synthesis of (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methanol (EDOT-MeOH)
In a 25 mL round bottom flask equipped with a reflux condenser 0.64 g (0.0030 mol) of (2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)methyl acetate was combined with 50% NaOH in water. The reaction was refluxed overnight and then cooled to room temperature. It was then poured into an Erlenmeyer flask filled with 100 mL water. The mixture was acidified then extracted with DCM. The solvent was removed under reduced pressure and column chromatography (7:3 hexanes/ethyl acetate) was performed to give 0.46 g (90%) of product. The structure was confirmed by LC-MS and 1H/13C NMR.

reactant | (2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)methyl acetate | 0.0030 mol, 0.64 g | C(C)(=O)OCC1COC=2C(O1)=CSC2 | C9H10O4S
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methanol | 0.46 g, 90% | O1C=2C(OC(C1)CO)=CSC2 | C7H8O3S
